US04452994
Preparation of 1,3-cyclohexanedione/lithium bromide complex
To a solution containing 140 ml of toluene, 65 ml methyl chloride, 25 ml ether and 5.72 g of 1,3-cyclohexane-dione is added 2.0 ml of water and 8.86 g of lithium bromide. The mixture is stirred for 18 hrs. The solids are removed by filtration, washed with 100 ml of cold 4:1, hexane:methylene chloride and dried `in vacuo` to give 16.58 g of 1,3-cyclohexanedione/lithium bromide complex.

reactant | toluene | 140 ml | C1(=CC=CC=C1)C | C7H8
reactant | methyl chloride | 65 ml | CCl | CH3Cl
reactant | 1,3-cyclohexane-dione | 5.72 g | C1(CC(CCC1)=O)=O | C6H8O2
reactant | lithium bromide | 8.86 g | [Br-].[Li+]
solvent | water | 2.0 ml | O | H2O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 1,3-cyclohexanedione lithium bromide | C1(CC(CCC1)=O)=O.[Br-].[Li+] | InChI=1S/C6H8O2.BrH.Li/c7-5-2-1-3-6(8)4-5;;/h1-4H2;1H;/q;;+1/p-1
